US06803457B1
5-Chloro-2-(2-morpholin-4-yl-ethoxy)benzylamine hydrochloride
A solution of 5-chloro-2-(2-morpholin-4-yl-ethoxy)benzonitrile (412 mg, 1.54 mmol) in anhydrous THF (15 mL) was added to a solution of lithium aluminum hydride (3.53 mL, 1.0 M in THF) at room temperature. The reaction was stirred for 15 h at room temperature under anhydrous conditions, whereupon it was cooled to 0° C. and 1 N aqueous NaOH (0.54 mL) was added. The reaction was stirred for ½ h at 0° C. and then the solids were filtered off and rinsed with THF. The filtrate was concentrated by rotary evaporation and the resulting solid was dissolved in 30 mL of absolute ethanol. Aqueous hydrochoride solution (1.0 N, 1.7 mL) was added and the reaction was stirred for 15 min. The solvent was removed by rotary evaporation and the resulting solid was triturated with Et2O to to yield the title compound.

reactant | 5-chloro-2-(2-morpholin-4-yl-ethoxy)benzonitrile | 1.54 mmol, 412 mg | ClC=1C=CC(=C(C#N)C1)OCCN1CCOCC1 | C13H15ClN2O2
reactant | lithium aluminum hydride | 1.0 M, 3.53 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 1 N, 0.54 mL | [OH-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-(2-morpholin-4-yl-ethoxy)benzylamine hydrochloride | Cl.ClC=1C=CC(=C(CN)C1)OCCN1CCOCC1 | InChI=1S/C13H19ClN2O2.ClH/c14-12-1-2-13(11(9-12)10-15)18-8-5-16-3-6-17-7-4-16;/h1-2,9H,3-8,10,15H2;1H
